US07776897B2
After methyltriphenylphosphonium bromide and n-butyllithium were reacted in THF, a THF solution of tert-butyl 2,2-dimethyl-3-oxo-3-phenylpropanoate was added thereto and the whole was reacted under heating to obtain tert-butyl 2,2-dimethyl-3-phenylbut-3-enoate.

reactant | n-butyllithium | C(CCC)[Li]
reactant | tert-butyl 2,2-dimethyl-3-oxo-3-phenylpropanoate | CC(C(=O)OC(C)(C)C)(C(C1=CC=CC=C1)=O)C | C15H20O3
catalyst | methyltriphenylphosphonium bromide | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl 2,2-dimethyl-3-phenylbut-3-enoate | CC(C(=O)OC(C)(C)C)(C(=C)C1=CC=CC=C1)C | C16H22O2
